US05359079
Preparation of 5-Amino-5-chlorosulfonyl-1,2,4-triazole (Formula II)
A 1 liter bottom draining glass reactor fitted with a fritted glass gas inlet tube, a gas outlet with a sulfuric acid scrubber, a paddle stirrer, a thermometer, and a jacket connected to a recirculating temperature regulated bath maintained at 18° C. A mixture containing 116 g (1.0 mole) of 5-amino-3-mercapto-1,2,4-triazole and 800 ml of 20 percent aqueous hydrochloric acid (made from 432 ml of 37 percent hydrochloric acid and 368 ml of water) was placed in the reactor and 222 g (3.13 moles) of chlorine was added thorough the gas inlet tube with stirring and cooling over a 165 min period. The temperature of the mixture was maintained at about 22° to about 32° C. under these conditions. The color of the mixture was changeable in the pale yellow to orange range and the initial slurry first thinned out and then became thick again as the reaction proceeded. After all the chlorine was added (uptake and the exotherm ceased), the temperature was reduced to about 5° C. and the mixture was removed though the bottom drain. The solids were collected by filtration, washed with 500 ml of cold water, and air dried to obtain the title compound as a pale yellow solid melting at 169.5°-170° C. (dec.). This amounted to 124 g (68 percent of theory) and was found by HPLC analysis to be about 95.5 percent of the title compound and about 4.5 percent 5-amino-1,2,4-triazole-3-sulfonic acid. The filtrate and wash were found by HPLC analysis to contain additional amounts of the title compound.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-3-mercapto-1,2,4-triazole | 1.0 mole, 116 g | NC1=NC(=NN1)S | C2H4N4S
reactant | chlorine | 3.13 moles, 222 g | ClCl | Cl2
solvent | hydrochloric acid | 800 ml | Cl | ClH
product | 5-Amino-5-chlorosulfonyl-1,2,4-triazole | NC1(N=CN=N1)S(=O)(=O)Cl | C2H3ClN4O2S
